US07632829B2
1-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-4-(4-piperidin-1-yl-butyl)-[1,4]diazepan-5-one
In analogy to the procedure described in example 5D, 1-[(E)-3-(3,4-dichloro-phenyl)-acryloyl]-4-(4-iodo-butyl)-[1,4]diazepan-5-one and piperidine (with no additional sodium iodide) gave the title compound as white powder. MS: 452.2 (MH+, 2Cl).

reactant | 1-[(E)-3-(3,4-dichloro-phenyl)-acryloyl]-4-(4-iodo-butyl)-[1,4]diazepan-5-one | ClC=1C=C(C=CC1Cl)/C=C/C(=O)N1CCN(C(CC1)=O)CCCCI | C18H21Cl2IN2O2
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | sodium iodide | [I-].[Na+]
product | 1-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-4-(4-piperidin-1-yl-butyl)-[1,4]diazepan-5-one | ClC=1C=C(C=CC1Cl)/C=C/C(=O)N1CCN(C(CC1)=O)CCCCN1CCCCC1 | C23H31Cl2N3O2
